US05120880
c) Preparation of 5,11-hexadecadiene-2,15-dione (IId)
A mixture of 36.4 g of a 91% strength (corresponding to 0.19 mole) of 1,9-decadiene-3,8-diol and 74.5 g (0.61 mole) of methyl acetoacetate was heated to 200° C. in the course of 3 h. At about 160° C., elimination of methanol began, followed by elimination of CO2. A total of 14.1 g of low boilers (bp.<70° C.) distilled off, and 9.5 l of CO2 (theory 10.2 l) were eliminated. The residue (73.5 g) was then subjected to fractional distillation under greatly reduced pressure (oil pump).

reactant | 1,9-decadiene-3,8-diol | 0.19 mole | C=CC(CCCCC(C=C)O)O | C10H18O2
reactant | methyl acetoacetate | 0.61 mole, 74.5 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | CO2 | C(=O)=O | CO2
reactant | methanol | CO | CH4O
product | 5,11-hexadecadiene-2,15-dione | CC(CCC=CCCCCC=CCCC(C)=O)=O | C16H26O2
